simulator lang=spectre
global 0

ahdl_include "./dut/converter_static_linearity_measurement_flow.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=4n width=2n delay=1n rise=100p fall=100p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 96n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.0 4n 0.0 88n 0.9 96n 0.9]
XDUT (clk rst vin code recon dnl inl) converter_static_linearity_measurement_flow

tran tran stop=96n maxstep=250p
save clk rst vin code recon dnl inl
